US04987132
N-tert-Butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid and D-methionine ethyl ester hydrochloride were used as the starting materials and treated in the same manner as in Example 4 to give [2-(3-pyridyl)thiazolidine-4-carbonyl]-D-methionine ethyl ester dihydrochloride. Melting point 94°-96° C.

reactant | N-tert-Butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | D-methionine ethyl ester hydrochloride | Cl.C(C)OC([C@H](N)CCSC)=O
product | [2-(3-pyridyl)thiazolidine-4-carbonyl]-D-methionine ethyl ester dihydrochloride | Cl.Cl.C(C)OC([C@H](NC(=O)C1NC(SC1)C=1C=NC=CC1)CCSC)=O | InChI=1S/C16H23N3O3S2.2ClH/c1-3-22-16(21)12(6-8-23-2)18-14(20)13-10-24-15(19-13)11-5-4-7-17-9-11;;/h4-5,7,9,12-13,15,19H,3,6,8,10H2,1-2H3,(H,18,20);2*1H/t12-,13?,15?;;/m1../s1
